US07674789B2
29b) 3-[8-(2,6-difluorophenyl)-2-(methylsulfinyl)-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl]-4-methyl-N-propylbenzamide
To a solution of 3-[8-(2,6-difluorophenyl)-2-(methylthio)-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl]-4-methyl-N-propylbenzamide (600 mg, 1.24 mmol) in CH2Cl2 (15 mL) was added m-CPBA (293 mg, 1.31 mmol). The mixture was stirred at room temperature for 10 minutes, then directly loaded onto a column. CombiFlash chromatography (mobile phase EtOAc/Hexane) afforded the title compound as a white solid 475 mg (77%). LC-MS m/z 500 (M+H)+.

reactant | 3-[8-(2,6-difluorophenyl)-2-(methylthio)-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl]-4-methyl-N-propylbenzamide | 1.24 mmol, 600 mg | FC1=C(C(=CC=C1)F)N1C(NCC2=C1N=C(N=C2C=2C=C(C(=O)NCCC)C=CC2C)SC)=O | C24H23F2N5O2S
reactant | m-CPBA | 1.31 mmol, 293 mg | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | EtOAc Hexane | CCOC(=O)C.CCCCCC
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
product | 3-[8-(2,6-difluorophenyl)-2-(methylsulfinyl)-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl]-4-methyl-N-propylbenzamide | 475 mg, 77% | FC1=C(C(=CC=C1)F)N1C(NCC2=C1N=C(N=C2C=2C=C(C(=O)NCCC)C=CC2C)S(=O)C)=O | C24H23F2N5O3S
